US06121271
2-(Pyrid-4-ylcarbonyl)oxy-4-[4-(9-bromo-2,3-dimethyl-naphtho[2, 3-b]thiophen-4-yl)-2,6-dimethyl-phenoxysulfonyl]-benzoic acid tert-butyl ester
The title compound was prepared according to the procedure in Example 25, step 1, using 4-[4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2, 6-dimethyl-phenoxysulfonyl]-2-hydroxy-benzoic acid tert-butyl ester (0.500 g, 0.691 mmol), isonicotinic acid (0.0851 g, 0.691 mmol), 2-chloro-1-methylpyridinium iodide (0.212g, 0.829 mmol) and triethylamine (0.327 mL, 2.35 mmol). Purification on Biotage KP-Sil eluting with 25% EtOAc/hexane gave 0.461 g (86%) of the title compound. 1H NMR (DMSO-d6) δ 1.35 (s, 9 H), 1.54 (s, 3 H), 2.17 (s, 6 H), 2.36 (s, 3 H), 7.19 (s, 2 H0, 7.45-7.47 (m, 2 H), 7.61-7.66 (m, 1 H), 8.04 (dd, 2 H), 8.13-8.25 (m, 4 H), 8.92 (dd, 2 H). mass spectrum (+ESI) m/z 772/774 (M+H).

reactant | 4-[4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2, 6-dimethyl-phenoxysulfonyl]-2-hydroxy-benzoic acid tert-butyl ester | 0.691 mmol, 0.500 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)S(=O)(=O)OC1=C(C=C(C=C1C)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)C)O)=O | C33H31BrO6S2
reactant | isonicotinic acid | 0.691 mmol, 0.0851 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | 2-chloro-1-methylpyridinium iodide | 0.829 mmol, 0.212g | [I-].ClC1=[N+](C=CC=C1)C
reactant | triethylamine | 2.35 mmol, 0.327 mL | C(C)N(CC)CC | C6H15N
product | 2-(Pyrid-4-ylcarbonyl)oxy-4-[4-(9-bromo-2,3-dimethyl-naphtho[2, 3-b]thiophen-4-yl)-2,6-dimethyl-phenoxysulfonyl]-benzoic acid tert-butyl ester | 0.461 g, 86% | C(C)(C)(C)OC(C1=C(C=C(C=C1)S(=O)(=O)OC1=C(C=C(C=C1C)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)C)OC(=O)C2=CC=NC=C2)=O | C39H34BrNO7S2
